US06124323
To a cooled (ice-water) solution of 2-(3,4-diaminophenoxy)ethyl bromide (2.03 g, 8.8 mmol) in pyridine (40 mL) was added dropwise 0.65 mL (8.9 mml) of SOCl2 with stirring. The resulting mixture was stirred at r.t for 2 h, then 4N H2SO4 was added dropwise with cooling. The acidic (pH 5) mixture was extracted with CHCl3 (4×50 mL). The CHCl3 solution was washed with brine, dried (Na2SO4), then evaporated to give 420 mg (17%) of 5-(2-bromoethoxy)-2,1,3-benzothiadiazol-2-one as an orange-yellow powder. 1H NMR (CDCl3): 3.737 (t, 2H, J=6), 4.407 (t, 2H, J=6), 7.195 (d, 1H, J=2), 7.341 (dd, 1H, J=9; 2), 7.874 (d, 1H, J=9).

reactant | 2-(3,4-diaminophenoxy)ethyl bromide | 8.8 mmol, 2.03 g | NC=1C=C(OCCBr)C=CC1N | C8H11BrN2O
reactant | SOCl2 | 0.65 mL | O=S(Cl)Cl | Cl2OS
reactant | H2SO4 | 4N | OS(=O)(=O)O | H2O4S
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 5-(2-bromoethoxy)-2,1,3-benzothiadiazol-2-one | 420 mg, 17% | BrCCOC1=CC=2C(=NS(N2)=O)C=C1 | C8H7BrN2O2S
